US09388185B2
4-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)picolinonitrile
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carbonitrile (from Combi-Blocks). LCMS calculated for C22H20N5O2(M+H)+: m/z=386.2. Found 386.2.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carbonitrile | CC1(OB(OC1(C)C)C1=CC(=NC=C1)C#N)C | C12H15BN2O2
product | 4-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)picolinonitrile | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C3=CC(=NC=C3)C#N)C=C(C1)OC | C22H19N5O2
